US06579984B1
2.50 g (9.42 mmol) of methyl 3-amino-2-[1-(4-fluorophenyl)methanoyl]-4-methylpent-2-enoate were introduced into 2.08 g (28.3 mmol) of N-methylmethanesulphonamide and 3.49 g (47.1 mmol) of tert-butanol together with 3.79 g (28.3 mmol) of N-cyano-N-methylmethanesulphonamide. 1.87 g (18.8 mmol) of sodium tert-butoxide were added to this suspension at room temperature after the course of 15 min (exothermic). After 4 h at 76° C., the reaction suspension was poured onto 20 g of ice water. The suspension was stirred in an ice bath, and the precipitate was filtered off and washed with water (2×2.5 ml). After drying in a high vacuum, 1.61 g of methyl 4-(4-fluorophenyl)-6-isopropyl-2-(N-methanesulphonyl-N-methylamino)pyrimidine-5-carboxylate were obtained in the form of a pale beige solid.

reactant | methyl 3-amino-2-[1-(4-fluorophenyl)methanoyl]-4-methylpent-2-enoate | 9.42 mmol, 2.50 g | NC(=C(C(=O)OC)C(=O)C1=CC=C(C=C1)F)C(C)C | C14H16FNO3
reactant | N-methylmethanesulphonamide | 28.3 mmol, 2.08 g | CNS(=O)(=O)C | C2H7NO2S
reactant | tert-butanol | 47.1 mmol, 3.49 g | C(C)(C)(C)O | C4H10O
reactant | N-cyano-N-methylmethanesulphonamide | 28.3 mmol, 3.79 g | C(#N)N(S(=O)(=O)C)C | C3H6N2O2S
reactant | sodium tert-butoxide | 18.8 mmol, 1.87 g | CC(C)([O-])C.[Na+]
product | methyl 4-(4-fluorophenyl)-6-isopropyl-2-(N-methanesulphonyl-N-methylamino)pyrimidine-5-carboxylate | 1.61 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1C(=O)OC)C(C)C)N(C)S(=O)(=O)C | C17H20FN3O4S
